US05578627
A solution of 2.0 g of 2-tritylamino-3-(1-trityl-4-imidazolyl)-1-propanol in 10 ml of N,N-dimethylformamide is dropwise added to a suspension of 0.14 g of 60% (w/w) sodium hydride in 15 ml of N,N-dimethylformamide at room temperature over 15 minutes, and the temperature is then elevated gradually to 80° C., after which this is added to a solution of 0.6 g of 3,5-dichloro-1,2-benzoisoxazole in 10 ml of N,N-dimethylformamide. They are subjected to reaction at the same temperature for six hours. After cooling, water and ethyl acetate are added and shaken, and the organic layer is separated. The separated organic layer is washed with a saturated saline solution and dried over anhydrous magnesium sulfate, after which the solvent is removed by distillation under reduced pressure. The residue obtained is purified by a column chromatography [eluant:n-hexane:ethyl acetate=3:1], to obtain 1.12 g of colorless, crystalline 5-chloro-3-[2-tritylamino-3-(1-trityl-4-imidazolyl)propoxy]-1,2-benzoisoxazole having a melting point of 113.4°-114.7° C.

reactant | 2-tritylamino-3-(1-trityl-4-imidazolyl)-1-propanol | 2.0 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(CO)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C44H39N3O
reactant | sodium hydride | [H-].[Na+]
reactant | 3,5-dichloro-1,2-benzoisoxazole | 0.6 g | ClC1=NOC2=C1C=C(C=C2)Cl | C7H3Cl2NO
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-chloro-3-[2-tritylamino-3-(1-trityl-4-imidazolyl)propoxy]-1,2-benzoisoxazole | ClC=1C=CC2=C(C(=NO2)OCC(CC=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C1 | C51H41ClN4O2
